US04002640
4.4 G. of 1-amino-2-nitro-4-thiocyanatobenzene in 10 ml. of dimethylformamide is treated under nitrogen with 0.85 g. of sodium borohydride in 10 ml. of DMF at not greater than 30° C. The mixture is stirred at 15° to 20° C for 1 hour, then treated with 5 g. of 1,1,1-trifluoro-2-bromoethane at 20° to 25° C. The mixture is heated to 100° C for 3 hours, cooled and diluted with water. The mixture is extracted with chloroform and the chloroform solution is dried over sodium sulfate. 2-Nitro-4-(2,2,2-trifluoroethylthio) aniline is obtained upon evaporation of the solution.

reactant | 1-amino-2-nitro-4-thiocyanatobenzene | NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C7H5N3O2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 1,1,1-trifluoro-2-bromoethane | FC(CBr)(F)F | C2H2BrF3
solvent | water | O | H2O
product | 2-Nitro-4-(2,2,2-trifluoroethylthio) aniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)SCC(F)(F)F | C8H7F3N2O2S
